US06048884
960 mg of t-butyl 2-(4-aminophenyl)ethylcarbamate and (2-benzylaminothiazol-4-yl)acetic acid were subjected to an amidation reaction to obtain 500 mg of t-butyl [2-[4-[2-(2-benzylaminothiazol-4-yl)acetylamino]phenyl]ethyl]carbamate.

reactant | t-butyl 2-(4-aminophenyl)ethylcarbamate | 960 mg | NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H20N2O2
reactant | (2-benzylaminothiazol-4-yl)acetic acid | C(C1=CC=CC=C1)NC=1SC=C(N1)CC(=O)O | C12H12N2O2S
product | t-butyl [2-[4-[2-(2-benzylaminothiazol-4-yl)acetylamino]phenyl]ethyl]carbamate | 500 mg | C(C1=CC=CC=C1)NC=1SC=C(N1)CC(=O)NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C25H30N4O3S
